US07517889B2
A mixture of 4-[2-(6-chloro-2-methoxy-pyrimidin-4-ylamino)-ethyl]-benzoic acid N′-acetyl-hydrazide (0.2 g, 0.55 mmol), and Burgess reagent (0.39 g, 1.65 mmol) in THF (6 mL) is placed in a microwave reactor. After 5 min at 130° C., the mixture is concentrated in a rotavap, and subjected to a chromatography eluting with 10% MeOH in CH2Cl2 to afford (6-chloro-2-methoxy-pyrimidin-4-yl)-{2-[4-(5-methyl-[1,3,4]oxadiazol-2-yl)-phenyl]-ethyl}-amine (160 mg). LCMS: RT=2.29 minutes; MS: 346 (M+H).

reactant | 4-[2-(6-chloro-2-methoxy-pyrimidin-4-ylamino)-ethyl]-benzoic acid N′-acetyl-hydrazide | 0.55 mmol, 0.2 g | C(C)(=O)NNC(C1=CC=C(C=C1)CCNC1=NC(=NC(=C1)Cl)OC)=O | C16H18ClN5O3
reactant | Burgess reagent | 1.65 mmol, 0.39 g | CC[N+](CC)(CC)S(=O)(=O)N=C([O-])OC | C8H18N2O4S
solvent | THF | 6 mL | C1CCOC1 | C4H8O
product | (6-chloro-2-methoxy-pyrimidin-4-yl)-{2-[4-(5-methyl-[1,3,4]oxadiazol-2-yl)-phenyl]-ethyl}-amine | 160 mg | ClC1=CC(=NC(=N1)OC)NCCC1=CC=C(C=C1)C=1OC(=NN1)C | C16H16ClN5O2
